US06992085B2
Step A: 4-(3-Bromopropoxy)benzonitrile
The procedure is as for Example 53, Step A, using as substrate 4-hydroxybenzonitrile and 1,3-dibromopropane.

reactant | 4-hydroxybenzonitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 4-(3-Bromopropoxy)benzonitrile | BrCCCOC1=CC=C(C#N)C=C1 | C10H10BrNO
